US05589476
1.2. 2-[4-(1H-Imidazol-4-yl)piperid-1-yl]-5,6-dihydro-4H-imidazo-[4,5,1-ij]quinoline
1 g (0.0052 mol) of 2-chloro-5,6-dihydro-4H-imidazo[4,5,1-ij]quinoline, 1.57 g (0.0104 mol) of 4-(1H-imidazol-4-yl)piperidine and 5 ml of isoamyl alcohol are heated at 120° C. for 1 day. The alcohol is then evaporated to dryness, the residue is taken up in a water/ether (50/50) mixture and the product sucked dry. The product is purified by chromatography on a column of silica gel, the eluent being a dichloromethane/methanol/aqueous ammonia (95/5/0.5) mixture, is then triturated in ether and dried under vacuum at 60° C. 1 g of product is obtained.

reactant | 2-chloro-5,6-dihydro-4H-imidazo[4,5,1-ij]quinoline | 0.0052 mol, 1 g | ClC1=NC=2C=CC=C3CCCN1C23 | C10H9ClN2
reactant | 4-(1H-imidazol-4-yl)piperidine | 0.0104 mol, 1.57 g | N1C=NC(=C1)C1CCNCC1 | C8H13N3
solvent | isoamyl alcohol | 5 ml | C(CC(C)C)O | C5H12O
product | 2-[4-(1H-Imidazol-4-yl)piperid-1-yl]-5,6-dihydro-4H-imidazo-[4,5,1-ij]quinoline | 1 g | N1C=NC(=C1)C1CCN(CC1)C1=NC=2C=CC=C3CCCN1C23 | C18H21N5
